2118-01-02 12:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2118-1-1**] 10:45 PM
 EKG - At [**2118-1-2**] 06:24 AM
 EKG - At [**2118-1-2**] 06:35 AM
   Allergies:
   Last dose of Antibiotics:
   Acyclovir - [**2118-1-2**] 08:46 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-1-2**] 04:56 AM
   Propofol - [**2118-1-2**] 09:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-2**] 12:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 100 (89 - 110) bpm
   BP: 124/72(90) {113/67(0) - 125/78(91)} mmHg
   RR: 14 (12 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                     68 mL
                                                                    512 mL
   PO:
             TF:
   IVF:
                                                                     68 mL
                                                                    512 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                    552 mL
   Urine:
                                                                    350 mL
                                                                    552 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -282 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 12 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   SpO2: 97%
   ABG: 7.44/50/77/28/7
   Ve: 8.6 L/min
   PaO2 / FiO2: 154
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   166 K/uL
   18.0 g/dL
   161 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   20 mg/dL
   102 mEq/L
   140 mEq/L
   58.8 %
   5.5 K/uL
        [image002.jpg]
                            [**2118-1-1**]  08:30 PM
                            [**2118-1-2**]  03:22 AM
                            [**2118-1-2**]  04:03 AM
                            [**2118-1-2**]  08:14 AM
   WBC
   5.5
   Hct
   58.8
   Plt
   166
   Cr
   0.8
   TropT
   0.08
   0.20
   TCO2
   38
   35
   Glucose
   161
   Other labs: PT / PTT / INR:14.4/28.1/1.2, CK / CKMB /
   Troponin-T:524/46/0.20, ALT / AST:29/79, Alk Phos / T Bili:40/0.3,
   Differential-Neuts:80.9 %, Lymph:7.8 %, Mono:10.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:495 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-1-1**] 11:00 PM
   Arterial Line - [**2118-1-2**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2118-01-05 06:37:00 Physician Resident Progress Note
Chief Complaint: Hypersomnolence/stupor and hypercarbic respiratory
   failure.
   24 Hour Events:
 BRONCHOSCOPY - At [**2118-1-4**] 03:10 PM
   spec sent for culture
 SPUTUM CULTURE - At [**2118-1-4**] 03:15 PM
 PICC LINE - START [**2118-1-4**] 10:00 PM
   - Underwent bronchoscopy for LLL collapse which was unremarkable.  BAL
   sent.
   - Increased signal noted in MRI in brainstem - D/w radiology. Could not
   have been in week prior to diffusion sequence.  Also onset not exactly
   vascular in character.  MRI has Shy-[**Last Name (un) 934**] appearance, but no clinical
   correlate.  Now mental status is clearing with improved
   respiration/ventilation.
   - Patient regained consciousness this evening during cessation of
   proprofol.  Correctly chose year with nod of head.  Shrugged shoulders
   and shook head when asked where he was.  Toes upgoing with limb
   withdrawal, but tickling bottom of feet elicited chuckling.  Could move
   hands and feet, but little more. Could look at speaker. Restarted
   proprofol and will stop again in a.m. before rounds.
   - Adjusted vent rate to 16 (20->18->16 today). ABG okay. Can likely go
   down on PEEP now.
   - Sent another UA to FU proteinuria.
   - Cardiac enzymes continue to trend down.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2118-1-3**] 12:02 AM
   Ceftriaxone - [**2118-1-4**] 02:28 PM
   Acyclovir - [**2118-1-5**] 12:00 AM
   Infusions:
   Propofol - 36 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-5**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.4
   HR: 96 (87 - 100) bpm
   BP: 113/67(83) {90/60(71) - 131/81(92)} mmHg
   RR: 20 (16 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.4 kg (admission): 83 kg
             Total In:
                                                                  2,194 mL
                                                                    811 mL
   PO:
             TF:
                                                                    858 mL
                                                                    421 mL
   IVF:
                                                                    996 mL
                                                                    310 mL
   Blood products:
   Total out:
                                                                    818 mL
                                                                    350 mL
   Urine:
                                                                    818 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,376 mL
                                                                    461 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI: 87
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/58/73.[**Numeric Identifier 218**]/36/11
   Ve: 9.5 L/min
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, Rash:
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): Year, Movement: Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   113 K/uL
   15.9 g/dL
   162 mg/dL
   0.6 mg/dL
   36 mEq/L
   4.1 mEq/L
   14 mg/dL
   98 mEq/L
   139 mEq/L
   51.0 %
   8.3 K/uL
        [image002.jpg]
                            [**2118-1-3**]  01:21 PM
                            [**2118-1-3**]  07:44 PM
                            [**2118-1-4**]  01:08 AM
                            [**2118-1-4**]  02:48 AM
                            [**2118-1-4**]  03:03 AM
                            [**2118-1-4**]  07:51 AM
                            [**2118-1-4**]  04:47 PM
                            [**2118-1-4**]  10:24 PM
                            [**2118-1-5**]  03:00 AM
                            [**2118-1-5**]  03:25 AM
   WBC
   8.6
   8.3
   Hct
   52
   50.6
   49
   51.0
   Plt
   128
   113
   Cr
   0.7
   0.6
   TropT
   1.19
   TCO2
   40
   39
   40
   38
   34
   36
   40
   40
   Glucose
   105
   140
   124
   162
   Other labs: PT / PTT / INR:13.6/31.2/1.2, CK / CKMB /
   Troponin-T:627/39/1.19, ALT / AST:29/79, Alk Phos / T Bili:40/0.3,
   Differential-Neuts:80.9 %, Lymph:7.8 %, Mono:10.6 %, Eos:0.3 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.1 g/dL, LDH:495 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: [**2118-1-4**] 3:38 pm BRONCHOALVEOLAR LAVAGE
      GRAM STAIN (Final [**2118-1-4**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   Microbiology:
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
   Assessment and Plan: 61M with HTN, untreated OSA, one week of
   hypersomnolence, progressing to stupor. Hypercarbic respiratory failure
   noted on arrival. Family also reported that the patient had been
   leaning to the right for that week. MRI shows diffuse disease including
   subcortical white matter and pons. Respiratory parameters also
   consistent with increased dead-space. The etiology is unclear, but MRI
   is only consistent with a vascular event more than one week ago
   (nothing seen on diffusion) and a vascular event is not really
   consistent with the history. Nonetheless, it is possible that some
   brainstem process led to both reduced level of consciousness or
   hypoventilation, or both, possibly with obstructive events.  This may
   have then predisposed him to ACS.  However, the nature of these
   brainstem lesions is not clear.
   # Hypercarbic respiratory failure
   Hypoventilatory at baseline given high bicarbonate on initial
   chemistry, but with acute component as well. Unclear etiology of
   chronic component - no history of COPD though long smoking history. No
   sedating meds known. A central cause of this and his altered mental
   status are possible, possibly with added obstruction.
   - Continue vent at current settings; goal pCo2 in mid-high 60s with pH
   in low-mid 7.3 range.
   - Treatment of pneumonia as below.
   - Atempt to solve this respiratory issue first, then see how neurologic
   status evolves
 may involve Neurology
   # Lethargy/altered mental status
   With elevated pCO2, but which came first unclear as above.  TSH, B12,
   medications, metabolic disturbance is not obviously responsible. Tox.
   screen negative. Seizure unlikely, vascular event also somewhat
   unlikely. EEG shows about 8 Hz at most, with typically disorganized
   slowing. This is not diagnostic.  Sleep-wake is not intact
 consistent
   with encephalopathy, most likely, but also with impaired sleep-wake
   circuitry. Presentation and MRI not consistent with herpes
   encephalitis. Tertiary syphilis not really very consistent with
   presentation.  Other CNS infections and the etiology of increased
   brainstem signal need to be considered.  Hyperphagia also interesting,
   along with impaired arousal for hypothalamic cause and/or possible
   post-infectious encephalitis. Will consider CSF electrophoresis if
   mental status not improved after resolution of hypercarbia etc.
   - Continue acyclovir for now
 despite unlikely of benefit
 until
   situation is clearer.
   - Treatment of systemic infection.
   # Rash
   # Elevated troponin/ECG changes.
   Initial ECG at OSH without major changes but here with small inferior
   STEs and small lateral STDs.  At the time concerning for
   cerebrovascular process, but then a significant enzyme leak.  This
   appears to be trending down now and the heparin gtt was stopped.  This
   was likely secondary to respiratory failure.
   - ASA 325 mg daily;  Simvastatin;
   - Readdress plavix on rounds
   # Polycythemia
   Primary myeloproliferative process (given adenopathy) vs. secondary
   process from chronic hypoxia (underlying lung disease - OHS, OSA, COPD,
   PA HTN, other).  Also consider hemoconcentration, though has not
   decreased considerably with IVFs.
   # Proteinuria
   No DM or known renal disease.  [**Month (only) 51**] be worth checking albumin versus
   protein or UPEP.
   - Repeat UA
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Communication: Patient
   [**Name (NI) 739**] [**Last Name (NamePattern1) 12364**] h-[**Telephone/Fax (1) 12365**] / c-[**Telephone/Fax (1) 12366**](cousin)
   [**Name (NI) 1154**] [**Name (NI) 12364**] h-[**Telephone/Fax (1) 12367**] / c [**Telephone/Fax (1) 12368**](?7972)
   [**Female First Name (un) 12369**] [**Telephone/Fax (1) 12370**] (sister)
   # Code:  Full
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2118-1-4**] 04:34 PM 65 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-1-1**] 11:00 PM
   Arterial Line - [**2118-1-2**] 07:00 AM
   PICC Line - [**2118-1-4**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-01-06 07:19:00 Physician Resident Progress Note
Chief Complaint: Leaning to right and hypersomnia, presenting with
   stupor and hypercarbic respiratory failure.
   24 Hour Events:
   - NIF performed: - 17 (poor predictor of successful extubation)
   - attempting to wean patient, was on 15 PS/5 PEEP all night with
   perioids of rapid shallow hyperventilation and desats to 90 %, episodes
   often triggered by any movement (suctioning), inc. settings to 20/5
   this AM with decr. in rate and imp. sats
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2118-1-5**] 08:29 AM
   Ceftriaxone - [**2118-1-5**] 02:00 PM
   Levofloxacin - [**2118-1-5**] 04:13 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-1-6**] 05:07 AM
   Other medications:
   Changes to medical and family history:
   No further.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-6**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98
   HR: 91 (82 - 98) bpm
   BP: 105/64(78) {79/49(59) - 127/73(89)} mmHg
   RR: 14 (7 - 42) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.4 kg (admission): 83 kg
             Total In:
                                                                  2,762 mL
                                                                    706 mL
   PO:
             TF:
                                                                  1,560 mL
                                                                    469 mL
   IVF:
                                                                    962 mL
                                                                    237 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    335 mL
   Urine:
                                                                  1,650 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 334 (334 - 637) mL
   PS : 15 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: 7.35/55/67/34/2
   NIF: -17 cmH2O
   Ve: 11.9 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Chest: Wheeze throughout.  No rales or bronchial sounds appreciated.
   Cardiovascular: RR, normal S1, S2, no M/R/G
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No Cyanosis, No Clubbing
   Musculoskeletal: No Muscle wasting
   Skin:  Rash
 urticarial, diffuse
 back, buttocks, legs, feet.  Mild
   now.
   Neurologic (propofol stopped before): Follows simple commands and
   comprehension intact. Tone likely normal (recent Propofol), power
   difficult to assess but could lift head and move extremities on
   command, reflexes (upgoing to toes with leg withdrawal bilaterally
   (yesterday), biceps 2+, patella 2+), sensation grossly intact to light
   touch, including in feet. Coordination not tested. Gestured that would
   like to be extubated. Oriented to year
 difficult to evaluate further.
   Labs / Radiology
   121 K/uL
   15.7 g/dL
   137 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.4 mEq/L
   17 mg/dL
   101 mEq/L
   140 mEq/L
   50.1 %
   6.8 K/uL
        [image002.jpg]
                            [**2118-1-4**]  04:47 PM
                            [**2118-1-4**]  10:24 PM
                            [**2118-1-5**]  03:00 AM
                            [**2118-1-5**]  03:25 AM
                            [**2118-1-5**]  10:13 AM
                            [**2118-1-5**]  01:24 PM
                            [**2118-1-5**]  02:56 PM
                            [**2118-1-5**]  04:32 PM
                            [**2118-1-6**]  03:08 AM
                            [**2118-1-6**]  04:59 AM
   WBC
   8.3
   6.8
   Hct
   51.0
   50.1
   Plt
   113
   121
   Cr
   0.6
   0.6
   TCO2
   36
   40
   40
   38
   39
   37
   39
   32
   Glucose
   124
   162
   137
   Other labs: PT / PTT / INR:13.4/30.3/1.1, CK / CKMB /
   Troponin-T:627/39/1.19, ALT / AST:29/79, Alk Phos / T Bili:40/0.3,
   Differential-Neuts:80.9 %, Lymph:7.8 %, Mono:10.6 %, Eos:0.3 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.1 g/dL, LDH:495 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Imaging: Unread.
   Microbiology: BAL with PMNs, no legionella, no growth.
   Assessment and Plan
   61M with HTN, untreated OSA, one week of hypersomnolence, progressing
   to stupor. Hypercarbic respiratory failure noted on arrival. Family
   also reported that the patient had been leaning to the right for that
   week. MRI shows diffuse disease including subcortical white matter and
   pons. Respiratory parameters also consistent with increased dead-space.
   The etiology is unclear, but MRI is only consistent with a vascular
   event more than one week ago (nothing seen on diffusion) and a vascular
   event is not really consistent with the history. We now consider this
   less likely in view of his recovery and suspect that his neurologic
   presentation may have been secondary to respiratory failure.
   Hypercarbic respiratory failure
   Changed to PSV yesterday.  NIF was
 17 yesterday and 12 this a.m.  We
   are concerned firstly for a neuromuscular disorder, then possibility of
   brainstem lesion on MRI and possibility that this is contributing to
   his phenotype.  Wean attempted, but still intubated.  We think it is
   still wise to continue antibiotics, even though OSA, COPD or PNA may be
   contributing. Wean PSV to [**10-16**] and then decrease PEEP. Large dead
   space presumably due to COPD that has preferentially resulted in
   pulmonary vascular injury and vessel dropout.
   - Pressure support to 15/5
   - Talk to Neurology about CNS or PNS/neuromuscular contributions
   - F/u CXR
   Lethargy/altered mental status
   Appears to be resolving with improvement of respiratory status (at
   least when off proprofol), but full neurologic exam not yet performed.
   Etiology otherwise unclear. [**Name2 (NI) 1765**] [**1-3**] note for further discussion.
   - Follow and evaluate when respiratory status improved.
   Rash
   Resolving. Unclear if drug reaction (is similar to drug rash) or,
   perhaps less likely, viral exanthem.
   Elevated troponin/ECG changes
   NSTEMI stable on ASA, BB (adjust as tolerated), statin. Cardiology
   following.  Consider ACEI on discharge.
   - BB when tolerable
   - Statin and ASA
   - Consider ACEI
   - Follow-up with cardiology as outpatient
   Polycythemia
   Primary myeloproliferative process (given adenopathy) vs. more likely
   secondary process from chronic hypoxia (underlying lung disease - OHS,
   OSA, COPD, PA HTN, other).  Also consider hemoconcentration, though has
   not decreased considerably with IVFs.
   - Follow
   Inactive:
   Proteinuria
   No DM or known renal disease.  [**Month (only) 51**] be worth checking albumin versus
   protein or UPEP. Repeat UA shows improvement to 30 from 500.
   ICU care:
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Communication: Patient
   [**Name (NI) 739**] [**Last Name (NamePattern1) 12364**] h-[**Telephone/Fax (1) 12365**] / c-[**Telephone/Fax (1) 12366**](cousin)
   [**Name (NI) 1154**] [**Name (NI) 12364**] h-[**Telephone/Fax (1) 12367**] / c [**Telephone/Fax (1) 12368**](?7972)
   [**Female First Name (un) 12369**] [**Telephone/Fax (1) 12370**] (sister)
   # Code:  Full
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2118-1-5**] 11:47 PM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2118-1-2**] 07:00 AM
   PICC Line - [**2118-1-4**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-01-07 07:14:00 Physician Resident Progress Note
Chief Complaint:
   61 M w/ HTN, OSA, ~120 pack-year smoking history, w/ one week of
   leaning to right, hypersomnolance, p/w hypercarbic respiratory failure
   and NSTEMI.
   24 Hour Events:
   - Neuro: Identified left upper extremity weakness, with normal
   sensation. Would like Cervical MRI to evaluate brachial plexus nerve
   roots and cause of left upper extremity weakness with normal sensation.
   Also recommend EMG and Nerve Conduction Studies.
   - 20mg IV Lasix, Dr. [**Last Name (STitle) 775**] noticed he was volume up over
   hospitalization, thought this may be contributing.
   - Changed to CMV overnight after he became dysynchronous with vent.
   -Neurology Consult:
Assessment and Plan: 61M with HTN, untreated OSA, presenting with
   lethargy and sleepiness, now admitted with hypercarbic
   respiratory failure and ?abnormal head CT and MRI s/o possible
   old gliotic lesion in pontine area.
The failure form weaning could be a part of his OSA syndrome or
   could be due to NM disease. however the former seems more likely.
   He does not have any exam findings suggestive on MG but exam is
   limited due to intubated status. the finding on exam about LUE
   weakness could possible reflect plexus or nerve root pathology as
   the pattern seems to be of LMN in origin.
- Would like MRA brain (? vertebrobasilar insufficiency) and Cervical
   MRI to evaluate brachial plexus nerve roots and cause of left upper
   extremity weakness with normal sensation.
- Also recommend EMG and Nerve Conduction Studies.
- Will follow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2118-1-5**] 08:29 AM Stopped
   Levofloxacin - [**2118-1-5**] 04:13 PM
   Stopped
   Ceftriaxone - [**2118-1-6**] 02:00 PM
   To end on [**2117-1-9**]
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2118-1-6**] 08:02 AM
   Heparin Sodium (Prophylaxis) - [**2118-1-7**] 06:23 AM
   Other medications:
   See OMR/MetaVision
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-7**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.9
C (100.2
   HR: 83 (83 - 96) bpm
   BP: 99/59(73) {79/53(67) - 115/70(84)} mmHg
   RR: 16 (5 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.4 kg (admission): 83 kg
             Total In:
                                                                  2,371 mL
                                                                    691 mL
   PO:
             TF:
                                                                  1,560 mL
                                                                    465 mL
   IVF:
                                                                    751 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    335 mL
   Urine:
                                                                  1,630 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    741 mL
                                                                    356 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 545 (325 - 601) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 148
   PIP: 35 cmH2O
   SpO2: 95%
   ABG: 7.48/37/91/39/3
   NIF: -12 cmH2O
   Ve: 8.4 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Chest: Wheeze throughout with coarse sounds superimposed.  No bronchial
   sounds appreciated.
   Cardiovascular: RR, normal S1, S2, no M/R/G
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No Cyanosis, No Clubbing
   Musculoskeletal: No Muscle wasting
   Skin:  Rash
 urticarial, diffuse
 back, buttocks, legs, feet.  Mild
   now.
   Neurologic (propofol stopped before): Follows simple commands and
   comprehension intact.  Eye opening not fatigable.
   Labs / Radiology
   123 K/uL
   15.5 g/dL
   154 mg/dL
   0.7 mg/dL
   39 mEq/L
   3.5 mEq/L
   20 mg/dL
   101 mEq/L
   142 mEq/L
   48.2 %
   7.2 K/uL
        [image002.jpg]
                            [**2118-1-5**]  03:25 AM
                            [**2118-1-5**]  10:13 AM
                            [**2118-1-5**]  01:24 PM
                            [**2118-1-5**]  02:56 PM
                            [**2118-1-5**]  04:32 PM
                            [**2118-1-6**]  03:08 AM
                            [**2118-1-6**]  04:59 AM
                            [**2118-1-6**]  11:43 AM
                             [**2118-1-7**]  02:16 AM
                             [**2118-1-7**]  06:17 AM
   WBC
   6.8
   7.2
   Hct
   50.1
   48.2
   Plt
   121
   123
   Cr
   0.6
   0.7
   TCO2
   40
   38
   39
   37
   39
   32
   41
   28
   Glucose
   137
   154
   Other labs: PT / PTT / INR:13.4/30.3/1.1, CK / CKMB /
   Troponin-T:627/39/1.19, ALT / AST:29/79, Alk Phos / T Bili:40/0.3,
   Differential-Neuts:80.9 %, Lymph:7.8 %, Mono:10.6 %, Eos:0.3 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.1 g/dL, LDH:495 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Imaging: [**Doctor First Name **] [**2118-1-6**] 10:28 AM
   FINDINGS: Indwelling devices remain in standard position. Stable
   cardiomegaly. Unchanged left lower lobe atelectasis and small left
   pleural
   effusion, but minimal improvement and small right pleural effusion and
   adjacent atelectasis.
   Microbiology: [**2118-1-4**] 3:38 pm BRONCHOALVEOLAR LAVAGE
      GRAM STAIN (Final [**2118-1-4**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2118-1-6**]):    NO GROWTH, <1000 CFU/ml.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   Assessment and Plan
   61M with HTN, untreated OSA, one week of hypersomnolence, progressing
   to stupor. Hypercarbic respiratory failure noted on arrival, along with
   NSTEMI
 now stable. Family also reported that the patient had been
   leaning to the right for that week. MRI shows diffuse disease including
   subcortical white matter and pons. Respiratory parameters also
   consistent with increased dead-space. The etiology is unclear, but MRI
   is only consistent with a vascular event more than one week ago
   (nothing seen on diffusion) and a vascular event is not really
   consistent with the history. We now consider this less likely in view
   of his recovery and suspect that his neurologic presentation may have
   been secondary to respiratory failure. On the other hand, peripheral
   nervous system causes also need to be considered given generalized
   weakness on exam (unclear if effort related) and very low NIF of -12 to
   -17 cmH2O.
   Hypercarbic Respiratory Failure
   Changed to PSV yesterday, then back to AC overnight given desynchony of
   respiratory effort and ventilator.  [**Month (only) 51**] return to PSV again during the
   day today. NIF was
 17 on Tuesday and - 12 yesterday, indicating
   investigation of neuromuscular or PNS cause such as Guillaume [**Location (un) **] or
   mysasthenia (although weak, does not appear fatigable on physical
   exam).  Neurology also raised possibility of vertebrobasilar arterial
   insufficiency.  Unclear at this point whether primarily respiratory,
   peripheral nervous or central etiology. Therefore they recommended MRA,
   cervical MRI (also noted LUE weakness), nerve conduction studies, EMG
   and anti-acetylcholine receptor antibodies. No evidence for PE, but
   mismatch would account for poor ventilation/oxygenation on given vent
   settings. Given extensive smoking history and unusually large minute
   volume for CO2 ventilation, likely smoking-related changes, perhaps
   vascular.  CK is quite elevated also.
   - Repeat NIF
   - Recheck CK
   - Trial PSV again this afternoon
   - Allow CO2 to drift up given that he likely retains at baseline
   - Continue ceftriaxone until [**2117-1-9**] (levofloxacin stopped)
   - Continue albuterol nebs
   - MRA brain
   - MRI (w/ gad) cervical cord and roots
   - Anti-acetylcholine receptor antibodies
   Lethargy/altered mental status
   Appears to be resolving with improvement of respiratory status (at
   least when off proprofol
   - Follow and evaluate further when respiratory status improved.
   Rash
   Resolving. Unclear if drug reaction (is similar to drug rash) or,
   perhaps less likely, viral exanthem.
   Elevated troponin/ECG changes
   NSTEMI stable on ASA, BB (adjust as tolerated), statin. Cardiology
   following.  Consider ACEI on discharge.
   - Continue metoprolol 37.5 TID
   - Statin and ASA
   - Consider ACEI
   - Follow-up with cardiology as outpatient
   Polycythemia
   Stable
 likely related to COPD/OSA. Will follow.
   ICU care
   # FEN: Replete electrolytes, tube feeds
   # Prophylaxis: Subcutaneous heparin, femotidine
   # Access: PICC
   # Communication: Patient
   Contact with son recently re-established
 may be proxy, whereas now is
   cousin.
   [**First Name4 (NamePattern1) 739**] [**Last Name (NamePattern1) 12364**] h-[**Telephone/Fax (1) 12365**] / c-[**Telephone/Fax (1) 12366**](cousin)
   [**Name (NI) 1154**] [**Name (NI) 12364**] h-[**Telephone/Fax (1) 12367**] / c [**Telephone/Fax (1) 12368**](?7972)
   [**Female First Name (un) 12369**] [**Telephone/Fax (1) 12370**] (sister)
   # Code:  Full
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2118-1-7**] 06:26 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2118-1-2**] 07:00 AM
   PICC Line - [**2118-1-4**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 61M HTN, OSA p/w hypercarbic respiratory
   failure and NSTEMI.  He continues tpo require sig vent support with
   further wean limited by weakness, concerning for central or NM
   component.  Getting MRI today.  Diureses attempted with lasix X 1.
   Increased secretions noted this am.
   Exam notable for Tm 100.5  BP 120/60 HR 80 RR 16 with sat 95
   on ACV 500/16/5/0.6 00-->7.48/37/91.
   Opens eyes, follows command, Coarse BS, RRR. Soft +BS NT. Trace pedal
   edema.
   Labs notable for WBC 7.2K, HCT 48.2, K+ 3.5, bicarb 39, Cr 0.7.
   CXR, improved aeration at L base
   BAL ngtd
   Hypoxic / hypercarbic respiratory failure from unclear
   process--likely multifactorial [**2-8**] ? pna, OSA/COPD, possible NM or
   central process.  Agree with plan to repeat abg, as current ABG
   results seems quite inconsistent with prior.  Pending gas, would resume
   PSV.  Adjust vent to optimize and allow for baseline hypercarbia (CO2
   50-60's).  Continue MDIs and attempts at gentle diuresis.
   We con't treatment for presumptive pneumonia. Now s/p levo day [**5-11**],
   continuing ctx to complete 7 day course, sending repeat sputum cx given
   increased secretions. There has been no change in oxygen requirement
   and some improvement in imaging.   Concern for central or NM process
   given low NIF, inability to tolerate low PS (not explained by
   PNA/COPD) and diffuse weakness on exam (? MG, ALS, cerebral-basilar
   insuff. Neurology input appreciated.  Will obtain brain in addition to
   c-spine MRI, nerve conduction studies, and check acetylcholine
   receptor levels, following NIF and neuro examination, CPK, and supp
   phos/lytes as needed.  In terms of recent NSTEMI, remains stable on
   asa, BBL, statin; cards following. Picc line in place. Remainder of
   plan as outlined above. Full code.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2118-1-7**] 07:33 PM ------

2118-01-08 07:03:00 Physician Resident Progress Note
Chief Complaint: Hypersomnolence and hypercarbic respiratory failure.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2118-1-7**] 11:50 AM
   - Called for respiratory parameters a few times with close to baseline
   ABGs and vent settings: Back on AC, PEEP increased to 8 from 5. O2 kept
   at 50%. O2 saturation 90-92% rising to 95% again after midnight
   (morning of [**1-8**]).
   - Had MRA/cervical cord MRI. Read pending.
   - Scotal edema, trace sacral edema
   - Given 20 mg IV Lasix last night with a goal of being even.
   - Not yet had EMG/nerve conduction studies.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2118-1-5**] 08:29 AM
   Levofloxacin - [**2118-1-5**] 04:13 PM
   Ceftriaxone - [**2118-1-6**] 02:00 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2118-1-7**] 09:30 PM
   Famotidine (Pepcid) - [**2118-1-7**] 10:18 PM
   Heparin Sodium (Prophylaxis) - [**2118-1-8**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-8**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.5
C (99.5
   HR: 79 (79 - 99) bpm
   BP: 126/73(90) {74/58(68) - 147/107(109)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.4 kg (admission): 83 kg
             Total In:
                                                                  2,282 mL
                                                                    652 mL
   PO:
             TF:
                                                                  1,560 mL
                                                                    453 mL
   IVF:
                                                                    723 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    420 mL
   Urine:
                                                                  1,690 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    592 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 183
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 95%
   ABG: 7.48/47/64/37/9
   Ve: 8.5 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, no conjuctival edema, scleral icterus.
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Chest: Wheeze throughout (coarse sounds markedly reduced).  No
   bronchial sounds appreciated.
   Cardiovascular: RR, normal S1, S2, no M/R/G
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No Cyanosis, No Clubbing, moderate scrotal edema (improved
   from yesterday), trace dependent edema.
   Musculoskeletal: No Muscle wasting
   Skin:  Rash
 urticarial, diffuse
 back, buttocks, legs, feet.
   Continues to improve with some retained around buttocks (perhaps
   related to stool output).
   Neurologic (propofol stopped before): Follows simple commands and
   comprehension intact.  (moving left arm and fingers this a.m.)
   Labs / Radiology
   147 K/uL
   15.0 g/dL
   142 mg/dL
   0.6 mg/dL
   37 mEq/L
   4.0 mEq/L
   17 mg/dL
   100 mEq/L
   141 mEq/L
   46.5 %
   7.9 K/uL
        [image002.jpg]
                            [**2118-1-5**]  02:56 PM
                            [**2118-1-5**]  04:32 PM
                            [**2118-1-6**]  03:08 AM
                            [**2118-1-6**]  04:59 AM
                            [**2118-1-6**]  11:43 AM
                             [**2118-1-7**]  02:16 AM
                             [**2118-1-7**]  06:17 AM
                             [**2118-1-7**]  02:31 PM
                             [**2118-1-7**]  09:28 PM
                             [**2118-1-8**]  01:58 AM
   WBC
   6.8
   7.2
   7.9
   Hct
   50.1
   48.2
   46.5
   Plt
   121
   123
   147
   Cr
   0.6
   0.7
   0.6
   TCO2
   37
   39
   32
   41
   28
   39
   36
   Glucose
   137
   154
   142
   Other labs: PT / PTT / INR:13.4/30.3/1.1, CK / CKMB /
   Troponin-T:244/39/1.19, ALT / AST:29/79, Alk Phos / T Bili:40/0.3,
   Differential-Neuts:80.9 %, Lymph:7.8 %, Mono:10.6 %, Eos:0.3 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.1 g/dL, LDH:495 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Microbiology: [**2118-1-7**] 2:12 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2118-1-7**]):
         <10 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
         QUALITY OF SPECIMEN CANNOT BE ASSESSED.
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
   61M with HTN, untreated OSA, one week of hypersomnolence, progressing
   to stupor. Hypercarbic respiratory failure noted on arrival, along with
   NSTEMI
 now stable. Family also reported that the patient had been
   leaning to the right for that week. MRI shows diffuse disease including
   subcortical white matter and pons. Respiratory parameters also
   consistent with increased dead-space. The etiology is unclear, but MRI
   is only consistent with a vascular event more than one week ago
   (nothing seen on diffusion) and a vascular event is not really
   consistent with the history. We now consider this less likely in view
   of his recovery and suspect that his neurologic presentation may have
   been secondary to respiratory failure. On the other hand, peripheral
   nervous system causes also need to be considered given generalized
   weakness on exam (unclear if effort related) and very low NIF of -12 to
   -17 cmH2O.
   Hypercarbic Respiratory Failure/Pneumonia
   Changed back to AC yesterday given desynchony of respiratory effort and
   ventilator.  Saturation worsened slightly yesterday and PEEP increased
   to 8 to maintain sat O2 at 90-92, but spontaneously improved to 95%
   around midnight.  NIF last done two days ago
 was -12.  Will repeat.
   Investigation of neuromuscular or PNS cause such as Guillaume [**Location (un) **] or
   mysasthenia (although weak, does not appear fatigable on physical
   exam).  Neurology also raised possibility of vertebrobasilar arterial
   insufficiency.  Unclear at this point whether primarily respiratory,
   peripheral nervous or central etiology. MRA brain, MRI (w/ gad)
   cervical cord and roots and Anti-acetylcholine receptor antibodies
   pending.  Likely smoking-related lung injury and known OSA, possible
   PNA contributing to complete ceftriaxone d7 on [**1-9**], completed 5 d of
   levo yesterday. Still copious secretions that did not improve with
   diuresis.  On the other hand, improved respiratory status did occur
   after diuresis, suggesting pulmonary edema may have some role.
   - Repeat NIF
   - Back to PSV now more stable [**12-11**]
   - Reduce PEEP again to 5
   - Allow CO2 to drift up given that he likely retains at baseline
   - Continue ceftriaxone until [**2117-1-9**] (levofloxacin stopped)
   - Continue albuterol nebs
   - Repeat Lasix 20 m.g with goal to be even, with respect to Is & Os, or
   slightly negative today.
   Lethargy/altered mental status
   Appears to be resolving with improvement of respiratory status and
   weaning of sedation. HSV negative by PCR (CSF).
   - Follow and evaluate further when respiratory status improved.
   Rash
   Resolving. Unclear if drug reaction (is similar to drug rash) or,
   perhaps less likely, viral exanthem.
   Elevated troponin/ECG changes
   NSTEMI stable on ASA, BB (adjust as tolerated), statin. Cardiology
   following.  Consider ACEI on discharge.
   - Continue metoprolol 37.5 TID (has been held without clear reason
   pressures have been high enough to not invoke hold). Now got BB
   yesterday and this a.m.
   - Statin and ASA
   - Consider ACEI
   - Follow-up with cardiology as outpatient
   Polycythemia
   Stable
 likely related to COPD/OSA. Will follow.
   ICU care
   # FEN: Replete electrolytes, tube feeds
   # Prophylaxis: Subcutaneous heparin, femotidine
   # Access: PICC
   # Communication: Patient
   Contact with son recently re-established
 may be proxy, whereas now is
   cousin.
   [**First Name4 (NamePattern1) 739**] [**Last Name (NamePattern1) 12364**] h-[**Telephone/Fax (1) 12365**] / c-[**Telephone/Fax (1) 12366**](cousin)
   [**Name (NI) 1154**] [**Name (NI) 12364**] h-[**Telephone/Fax (1) 12367**] / c [**Telephone/Fax (1) 12368**](?7972)
   [**Female First Name (un) 12369**] [**Telephone/Fax (1) 12370**] (sister)
   # Code:  Full
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2118-1-7**] 06:26 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2118-1-2**] 07:00 AM
   PICC Line - [**2118-1-4**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 61M HTN, OSA p/w hypercarbic respiratory
   failure and NSTEMI.  He continues to have sig secretions. Desatturated
   over night, did not appear dysnchronous or agitated. Placed on ACV with
   increased peep. Was diuresed.  Back on PS 12/5 this am.
   Exam notable for Tm 100.7->99.5  BP 109/60 HR 80 RR 16 with sat 93-95%
   on PS 12/5 (0.5)
   Opens eyes, follows simple command, Coarse BS, RRR. Soft +BS NT. Trace
   pedal edema. improved scrotal edema
   Labs notable for WC 7.9K, HCT 46, K+ 4.0, bicarb 39, Cr 0.6.
   Brain/c-spine MRI pending
   Hypoxic / hypercarbic respiratory failure from unclear
   process--likely multifactorial [**2-8**] ? pna, OSA/COPD, possible NM or
   central process.  Agree with plan to continue PSV.  Appears comfortable
   at this time. Would diurese, continue MDIs, con't treatment
   for presumptive pneumonia, now s/p levo day [**5-11**], continuing ctx day
   [**6-13**]. Would repeat sputum cx given increased secretions and follow cxr.
   He has not tolerated lower PS levels (not explained by PNA/COPD)
   and has had low nifs and diffuse weakness on exam concerning for NM or
   central process (? MG, ALS, cerebral-basilar insuff) which we are
   working up.  Neurology input appreciated.  Will f/u brain and c-spine
   MRI. Nerve conduction studies, emg and  acetylcholine receptor levels
   are ordered, we will follow NIF and neuro examination, CPKs, and supp
   phos/lytes as needed. If NIF improving could try wean. In terms of
   recent NSTEMI, remains stable on asa, BBL, statin; cards
   following. Picc line in place.. Remainder of plan as outlined above.
   Full code.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2118-1-8**] 13:48 ------

2118-01-09 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypercarbic Respiratory Failure
   24 Hour Events:
   - Updated the family.
   - NIF 15 (from 12 yesterday) with minimal sedation.
   - Diuresed with Lasix 20mg IV x2
   - Desated from mid-ninties->92% after PEEP decreased from 8->5, on ABG
   pO2 97->67, so went back up on PEEP to 8.
   - This AM ABG: 7.46/51/63/36/10, so switched to AC.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2118-1-8**] 02:00 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2118-1-8**] 09:51 PM
   Heparin Sodium (Prophylaxis) - [**2118-1-8**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-9**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.9
C (100.3
   HR: 88 (74 - 92) bpm
   BP: 115/63(80) {96/52(68) - 130/101(112)} mmHg
   RR: 21 (15 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.7 kg (admission): 83 kg
             Total In:
                                                                  2,295 mL
                                                                    724 mL
   PO:
             TF:
                                                                  1,563 mL
                                                                    434 mL
   IVF:
                                                                    733 mL
                                                                    290 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                    480 mL
   Urine:
                                                                  2,230 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     65 mL
                                                                    244 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 449 (0 - 480) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Sao2 < 90%, RR >35
   PIP: 20 cmH2O
   SpO2: 93%
   ABG: 7.46/51/63/36/10
   NIF: -15 cmH2O
   Ve: 10.4 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, no conjuctival edema, scleral icterus.
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Chest: Wheeze throughout .
   Cardiovascular: RR, normal S1, S2, no M/R/G
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No Cyanosis, No Clubbing, moderate scrotal edema (improved
   from yesterday), trace dependent edema.
   Musculoskeletal: No Muscle wasting
   Skin:  Rash
 urticarial, diffuse
 back, buttocks, legs, feet.
   Continues to improve with some retained around buttocks (perhaps
   related to stool output).
   Neurologic (sedated on propofal): opens eyes to command. Propofal dc
   on rounds and patient alert, follows commands moving all extremities.
   Labs / Radiology
   176 K/uL
   15.6 g/dL
   126 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.1 mEq/L
   19 mg/dL
   100 mEq/L
   142 mEq/L
   49.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2118-1-7**]  02:31 PM
                             [**2118-1-7**]  09:28 PM
                             [**2118-1-8**]  01:58 AM
                             [**2118-1-8**]  03:03 PM
                             [**2118-1-8**]  09:44 PM
                             [**2118-1-8**]  09:53 PM
                             [**2118-1-9**]  12:00 AM
                             [**2118-1-9**]  03:02 AM
                             [**2118-1-9**]  03:14 AM
                             [**2118-1-9**]  06:34 AM
   WBC
   7.9
   7.7
   Hct
   46.5
   49.1
   Plt
   147
   176
   Cr
   0.6
   0.6
   0.7
   TCO2
   39
   36
   36
   39
   38
   37
   37
   Glucose
   142
   132
   126
   Other labs: PT / PTT / INR:13.5/27.7/1.2, CK / CKMB /
   Troponin-T:244/39/1.19, ALT / AST:29/79, Alk Phos / T Bili:40/0.3,
   Differential-Neuts:69.6 %, Lymph:17.4 %, Mono:8.2 %, Eos:4.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.1 g/dL, LDH:495 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   MRI Cervical Spine: Read Pending.
   MRA Brain: Read Pending.
   Assessment and Plan
    61M with HTN, untreated OSA, one week of hypersomnolence, progressing
   to stupor. Hypercarbic respiratory failure noted on arrival, along with
   NSTEMI
 now stable. Family also reported that the patient had been
   leaning to the right for that week. MRI shows diffuse disease including
   subcortical white matter and pons. Respiratory parameters also
   consistent with increased dead-space. The etiology is unclear, but MRI
   is only consistent with a vascular event more than one week ago
   (nothing seen on diffusion) and a vascular event is not really
   consistent with the history. We now consider this less likely in view
   of his recovery and suspect that his neurologic presentation may have
   been secondary to respiratory failure. On the other hand, peripheral
   nervous system causes also need to be considered given generalized
   weakness on exam (unclear if effort related) and very low NIF of -12 to
   -17 cmH2O.
   Hypercarbic Respiratory Failure/Pneumonia
   Patient has not tolerated low levels of pressure support. Transitioned
   back to AC this AM.   NIF last done two days ago
 was -12.  Will
   repeat. Investigation of neuromuscular or PNS cause such as Guillaume
   [**Location (un) **] or mysasthenia (although weak, does not appear fatigable on
   physical exam).  Neurology also raised possibility of vertebrobasilar
   arterial insufficiency.  Unclear at this point whether primarily
   respiratory, peripheral nervous or central etiology. MRA brain, MRI (w/
   gad) cervical cord and roots and Anti-acetylcholine receptor antibodies
   pending.  Likely smoking-related lung injury and known OSA, possible
   PNA contributing to complete ceftriaxone d7 on [**1-9**], completed 5 d of
   levo yesterday. Still copious secretions overnight. No meaningful
   improvement with lasix.
   - Repeat NIF today and follow.
   - Maintain pressure support 14/8 today.
   - Allow CO2 to drift up given that he likely retains at baseline
   - Last day ceftriaxone today.
   - Continue albuterol nebs
   - Repeat Lasix 20 m.g with goal to be even, with respect to Is & Os, or
   slightly negative today.
   Fever
   Patient with low grade fever overnight. Would consider VAP, however no
   new infiltrate on cxr. Other consideration include UTI, Line infection.
   - Blood cultures
   - Urinalysis and Culture
   - LFTs
   - If spikes/decompensate will cover for VAP
   Lethargy/altered mental status
   Appears to be resolving with improvement of respiratory status and
   weaning of sedation. HSV negative by PCR (CSF).
   - Follow and evaluate further when respiratory status improved.
   Rash
   Resolving. Unclear if drug reaction (is similar to drug rash) or,
   perhaps less likely, viral exanthem.
   Elevated troponin/ECG changes
   NSTEMI stable on ASA, BB (adjust as tolerated), statin. Cardiology
   following.  Consider ACEI on discharge.
   - Continue metoprolol 37.5 TID (has been held without clear reason
   pressures have been high enough to not invoke hold). Now got BB
   yesterday and this a.m.
   - Statin and ASA
   - Consider ACEI
   - Follow-up with cardiology as outpatient
   Polycythemia
   Stable
 likely related to COPD/OSA. Will follow.
   ICU care
   # FEN: Replete electrolytes, tube feeds
   # Prophylaxis: Subcutaneous heparin, famotidine
   # Access: PICC
   # Communication: Patient
   Contact with son recently re-established
 may be proxy, whereas now is
   cousin.
   [**First Name4 (NamePattern1) 739**] [**Last Name (NamePattern1) 12364**] h-[**Telephone/Fax (1) 12365**] / c-[**Telephone/Fax (1) 12366**](cousin)
   [**Name (NI) 1154**] [**Name (NI) 12364**] h-[**Telephone/Fax (1) 12367**] / c [**Telephone/Fax (1) 12368**](?7972)
   [**Female First Name (un) 12369**] [**Telephone/Fax (1) 12370**] (sister)
   # Code:  Full
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2118-1-8**] 01:06 PM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2118-1-2**] 07:00 AM
   PICC Line - [**2118-1-4**] 10:00 PM
   Prophylaxis:
   DVT: SubQ Heparin
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for Now
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 61M HTN, OSA p/w hypercarbic respiratory
   failure and NSTEMI.  He continues to have sig secretions, unchanged
   over past days. Diuresed with lasix.   Fatigued on PS/Peep 5 rested on
   ACV overnight.  Now back on PS.
   Exam notable for Tm 100.4-->100.3  BP  120/70   HR 80   RR 14  with sat
   93-98% on PS 14/8 (0.5)-->7.42/54/115
   Opens eyes, follows command, coarse BS, RRR. Soft +BS NT. Trace pedal
   edema. improved scrotal edema
   Labs notable for WC 7.7K, HCT 49, K+ 4.1, bicarb 36, Cr 0.7
   Brain/c-spine MRI pending
   CXR--no focal process, l base not visualized
   Hypoxic / hypercarbic respiratory failure from unclear
   process--likely multifactorial [**2-8**] ? pna, OSA/COPD, possible NM or
   central process.  Agree with plan to continue PSV.  He has not
   tolerated lower PS /peep levels (not explained by PNA/COPD) and has had
   low nifs and diffuse weakness on exam concerning for NM or central
   process (? MG, ALS, cerebral-basilar insuff) which we are working up.
   Neurology input appreciated.  Will f/u brain and c-spine MRI. Nerve
   conduction studies, emg and  acetylcholine receptor levels are ordered,
   we will follow NIF and neuro examination, CPKs, and supp phos/lytes as
   needed. Will continue current support, resting on ACV overnight. Will
   continue gentle diuresis, continue MDIs, and complete  treatment
   for presumptive pneumonia, now s/p levo day [**5-11**], continuing ctx day
   [**7-13**]. He continues to have copious secretions, unchanged, with no focal
   infiltrate on increase in FIO2. He now has low grade temps. Will
   perform fever work-up, send sputum, blood, urine, lfts, c diff,
   consider lenis and changing out picc.  Low threshold to cover for
   VAP/tracheobronchitis. In terms of recent NSTEMI, remains stable on
   asa, BBL, statin; cards following. Picc line in place.. Remainder of
   plan as outlined above. Full code.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2118-1-9**] 15:40 ------

2118-01-10 07:46:00 Physician Resident Progress Note
Chief Complaint: Altered mental status (hypersomnolence nearing stupor)
   for one week prior to admission, hypercarbic respiratory failure and
   NSTEMI found on arrival.
   24 Hour Events:
   - Fevers overnight, LFTs ALT: 93 (Increased) AST: 79  AP: 141
   (Increased) Tbili: 0.7  LDH: 447 (decreased), Blood Cx Pending, urine
   Cx pending, UA negative.
   - MRI/A final read: Pending, Called but no answer from MRI
   - Neuro Recs: Nothing New
   - Thyroid function normal
   - I/O +1liter after 20mg IV Lasix at 1730, 20mg IV Lasix repeated
   continued to be approx. +1liter. 40mg IV lasix. Repleted Potassium.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2118-1-9**] 03:26 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2118-1-9**] 05:43 PM
   Heparin Sodium (Prophylaxis) - [**2118-1-9**] 09:33 PM
   Other medications:
   Changes to medical and family history:
   No further.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-10**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.8
   HR: 76 (72 - 83) bpm
   BP: 124/71(89) {97/54(69) - 129/77(189)} mmHg
   RR: 15 (10 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.7 kg (admission): 83 kg
             Total In:
                                                                  2,498 mL
                                                                    748 mL
   PO:
             TF:
                                                                  1,563 mL
                                                                    490 mL
   IVF:
                                                                    875 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                  2,040 mL
                                                                  1,150 mL
   Urine:
                                                                  2,040 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    458 mL
                                                                   -402 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 508 (508 - 687) mL
   PS : 14 cmH2O
   RR (Set): 16
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   SpO2: 94%
   ABG: 7.42/56/140/32/10
   Ve: 10 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: No acute distress, likely BMI within normal range,
   slightly ruddy appearance, appears approximately stated age.
   Eyes / Conjunctiva: PERRL, no conjuctival edema, no scleral icterus nor
   conjunctival pallor.
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, no
   discharge.
   Chest: Wheeze throughout with resonant percussion and some trace rales
   throughout (improved), chest expansion likely symmetric.
   Cardiovascular: RR, normal S1, S2, no M/R/G appreciated.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No Cyanosis, No Clubbing, moderate scrotal edema (improved
   from yesterday), trace dependent edema.
   Musculoskeletal: No Muscle wasting
   Skin:  Rash
 urticarial, diffuse
 back, buttocks, legs, feet.
   Continues to improve with some retained around buttocks (perhaps
   related to stool output).
   Neurologic (sedated on propofal but more lucid today): Affect perplexed
   and slightly euphoric, spontaneous movement but largely not purposive.
   Opens eyes spontaneous, communicates with hand and head shake and nod
   when spoken to
 no spontaneous attempts to communicate. CNs II-XII
   intact (could not evaluate speech, gag, hoarseness). Muscle bulk
   normal; no fasciculations observed in arms, shoulders, legs; tone
   normal to low; movements including eye opening not fatigable; power
   grossly normal with some possibly reduced shoulder strength. Difficult
   to retain patient
s cooperativity for a long exam. Reflexes intact
   (knee extension, biceps), coordination not tested; sensation very
   crudely intact .
   Labs / Radiology
   184 K/uL
   15.7 g/dL
   135 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.1 mEq/L
   18 mg/dL
   101 mEq/L
   143 mEq/L
   47.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2118-1-8**]  09:44 PM
                             [**2118-1-8**]  09:53 PM
                             [**2118-1-9**]  12:00 AM
                             [**2118-1-9**]  03:02 AM
                             [**2118-1-9**]  03:14 AM
                             [**2118-1-9**]  06:34 AM
                             [**2118-1-9**]  12:21 PM
                             [**2118-1-9**]  10:15 PM
                             [**2118-1-10**]  04:28 AM
                             [**2118-1-10**]  06:46 AM
   WBC
   7.7
   9.3
   Hct
   49.1
   47.7
   Plt
   176
   184
   Cr
   0.6
   0.7
   0.6
   0.6
   TCO2
   39
   38
   37
   37
   36
   38
   Glucose
   132
   126
   135
   135
   Other labs: PT / PTT / INR:13.5/27.7/1.2, CK / CKMB /
   Troponin-T:244/39/1.19, ALT / AST:107/89, Alk Phos / T Bili:138/0.6,
   Differential-Neuts:69.6 %, Lymph:17.4 %, Mono:8.2 %, Eos:4.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.1 g/dL, LDH:467 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   CXR today slightly improved from yesterday
   STUDY: AP chest [**2118-1-9**]:
   HISTORY: 61-year-old man with hypercarbic respiratory failure. Evaluate
   for
   interval change.
   FINDINGS: Comparison is made to prior study from [**2118-1-7**].
   The endotracheal tube, nasogastric tube, and left-sided PICC line are
   unchanged in position. There has been improvement of the left
   retrocardiac
   opacity. The left base is partially excluded on the field of view.
   There are
   no signs for overt pulmonary edema and the right lung field is clear.
   MRA
   Limited MRA due to motion artifact. This is particularly
   limiting evaluation of the distal vertebral arteries and the
   vertebrobasilar
   junction. Although there has been no definite change since the CTA of
   [**1-1**], the poor quality of the MRA limits characterization of the
   vertebrals or basilar artery.
   Our read - slightly tortuous rostral portion of vertebral arteries but
   difficult to evaluate. Basilar well filled.
   Microbiology: [**2118-1-9**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   Assessment and Plan
   61M with HTN, untreated OSA, one week of hypersomnolence, progressing
   to stupor. Hypercarbic respiratory failure noted on arrival, along with
   NSTEMI
 now stable. Family also reported that the patient had been
   leaning to the right for that week. MRI shows diffuse disease including
   subcortical white matter and pons. PNA also likely based on CXR and
   presentation (febrile, copious secretions, no other sites of infection
   evident).
   During the stay the patient has been switching between AC and PSV
   ventilation
 due to desynchrony with ventilator and tachypneic
   episodes.  Attempts to reduce pressure support typically result in
   tachypnea to the 30s-40s.  Now this is attended by relatively normal
   (we think) blood gases for him
 we expect that his PPCO2 is typically
   58-62 mmHg at baseline (a guess). The etiology is unclear, but it is
   important to note that he suffers from untreated OSA, about 120
   pack-year history of smoking, HTN, polycythemia (perhaps due to chronic
   hypoxia or maybe primary), PNA and apparently abnormal respiratory
   drive
 in response to hypoxia or reduced pressure support he becomes
   tachypneic with low tidal volumes.  We wonder if this might be
   neurologic, perhaps due to an insult sometime prior to admission with
   gradual decompensation and PNA
 this is consistent with his history
   prior to admission.  We also wonder if this may correlate with
   increased pontine signal on MRI.  Peripheral causes such as ALS,
   myasthenia [**Last Name (un) **] and Guillaume [**Location (un) **] are unlikely based on no
   fasciculations, normal muscle bulk, the absence of fatigability and the
   presence of reflexes.  Neurology are following.  Based on previous echo
   he does not have pulmonary hypertension and only has a trace of heart
   failure on clinical exam without much improvement of breathing after
   diuresis.  NIF gradually increasing and
 26 cm H2O today.
   Hypercarbic Respiratory Failure/Pneumonia
   Patient has not tolerated low levels of pressure support, with
   tachypnea as above. NIF now -26 cmH2O. Still unclear etiology.  PNA and
   OSA, with central hypoventilation. Transitioned back to AC this
   yesterday now back to pressure support.   Investigation of
   neuromuscular or PNS cause such as Guillaume [**Location (un) **] or mysasthenia
   incomplete (although weak, does not appear fatigable on physical exam,
   but AChR antibody still pending), but may be unwarranted as described
   above. Neurology also raised possibility of vertebrobasilar arterial
   insufficiency and MRA somewhat inconclusive. Left arm movement much
   improved
 reason for cervical MRI. Unclear at this point whether
   primarily respiratory, peripheral nervous or central etiology, but
   appears likely to be both primary respiratory with central component at
   present. . Likely smoking-related lung injury and known OSA, possible
   PNA contributing, now completed ceftriaxone and levo. No meaningful
   improvement with lasix so far.
   - Follow NIF
   - Appreciate Neurology input
   - Neurology want to hold on NCS/EMG given new exam now less sedated
   - Work towards trial of extubation (rather than maintaining trach and
   needing tracheostomy)
   - Maintain pressure support (reduce gradually and consider AC each
   night - is that the pattern?)
   - Allow CO2 around 58-62 mmHg
   - Continue albuterol nebs
   - Continue Lasix 20 m.g with goal to be even to down slightly (but also
   consider phlebotomy to keep viscosity lower).
   - Will allow period of tachypnea on [**5-11**] today and check ABG
   Transaminitis
   Possible statin or propofol
   - Stop statin for now
   - Follow
   Fever
   Still near febrile 100.3. Patient with low grade fever overnight. Would
   consider VAP, however no new infiltrate on CXR. Other consideration
   include UTI, line infection.
   - Blood cultures
   - Urinalysis and Culture
   - LFTs
   - Daily CXR depending on exam findings
   - If spikes/decompensate will cover for VAP
   Lethargy/altered mental status
   Appears to be resolving with improvement of respiratory status and
   weaning of sedation. Possible contribution as pseudobulbar affect and
   in context of gliosis/vascular lesion in pons. [**Month (only) 51**] also have caused
   somnolence prior to presentation.
   - Follow and evaluate further when respiratory status improved.
   Rash
   Resolving. Unclear if drug reaction (is similar to drug rash) or,
   perhaps less likely, viral exanthem.
   Elevated troponin/ECG changes
   NSTEMI stable on ASA, BB (adjust as tolerated), statin. Cardiology
   following.  Consider ACEI on discharge.
   - Continue metoprolol 37.5 TID (has been held without clear reason
   pressures have been high enough to not invoke hold). Now got BB
   yesterday and this a.m.
   - Statin and ASA
   - Consider ACEI
   - Follow-up with cardiology as outpatient
   Polycythemia
   Stable
 likely related to COPD/OSA. Will follow.
   Constipation
   - Increase bowel regimen to standing Colace/senna with holding
   parameter, rather than PRN.
   ICU care
   # FEN: Replete electrolytes, tube feeds
   # Prophylaxis: Subcutaneous heparin, famotidine
   # Access: PICC
   # Communication: Patient
   Contact with son recently re-established
 may be proxy, whereas now is
   cousin.
   [**First Name4 (NamePattern1) 739**] [**Last Name (NamePattern1) 12364**] h-[**Telephone/Fax (1) 12365**] / c-[**Telephone/Fax (1) 12366**](cousin)
   [**Name (NI) 1154**] [**Name (NI) 12364**] h-[**Telephone/Fax (1) 12367**] / c [**Telephone/Fax (1) 12368**](?7972)
   [**Female First Name (un) 12369**] [**Telephone/Fax (1) 12370**] (sister)
   # Code:  Full
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2118-1-9**] 07:48 PM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2118-1-2**] 07:00 AM
   PICC Line - [**2118-1-4**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-01-11 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypercarbic Respiratory Failure
   24 Hour Events:
   - Neuro recs: They feel clinical exam not consistent with ALS, GBS, MG,
   therefore defer EMG/NCS given difficulty of getting good study in the
   ICU.  They will follow and consider the possibility of a central
   cause.  Their note is in:
   "His whitematter changes are imnpressive and indicate chronic
   Binswangertype changes that ante-dated the present encephalopathy. He
   clearly has severe chronic lung disease and prior brain abnormalities.
   I am not convinced about the neuromuscular aspects. More detailed
   history is needed about potential weakness or limb symptoms that
   antedated the respiratory failure. he clearly does not have either
   mysathenia or guillain-[**Location (un) **]." Dr. [**Last Name (STitle) **].
   - Breathing: Trialed on [**5-11**] and became tachypneic again without change
   in ABG.
   - Dr. [**Last Name (STitle) 775**] spoke with his cousins
   - Atorvastatin stopped - transaminitis (also some proximal weakness;
   but alternate explanation may be propofol)
   - Sputum culture sent
   - Bowel regimen increased to colace and senna standing. Bisacodyl is
   PRN.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2118-1-9**] 03:26 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-1-10**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-11**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.1
C (98.8
   HR: 84 (69 - 93) bpm
   BP: 91/60(71) {85/57(71) - 141/94(107)} mmHg
   RR: 38 (13 - 40) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.8 kg (admission): 83 kg
             Total In:
                                                                  2,513 mL
                                                                    687 mL
   PO:
             TF:
                                                                  1,560 mL
                                                                    447 mL
   IVF:
                                                                    713 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                  2,490 mL
                                                                    240 mL
   Urine:
                                                                  2,490 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     23 mL
                                                                    447 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 214 (214 - 280) mL
   PS : 5 cmH2O
   RR (Spontaneous): 38
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 103
   PIP: 11 cmH2O
   SpO2: 90%
   ABG: 7.40/58/80.[**Numeric Identifier 176**]/36/8
   NIF: -26 cmH2O
   Ve: 9.5 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: No acute distress, likely BMI within normal range,
   slightly ruddy appearance, appears approximately stated age.
   Eyes / Conjunctiva: PERRL, no conjuctival edema, no scleral icterus nor
   conjunctival pallor.
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, no
   discharge.
   Chest: Wheeze throughout with resonant percussion and some trace rales
   throughout (improved), chest expansion likely symmetric.
   Cardiovascular: RR, normal S1, S2, no M/R/G appreciated.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No Cyanosis, No Clubbing, moderate scrotal edema (improved
   from yesterday), trace dependent edema.
   Musculoskeletal: No Muscle wasting
   Skin:  Rash
 urticarial, diffuse
 back, buttocks, legs, feet.
   Continues to improve with some retained around buttocks (perhaps
   related to stool output).
   Neurologic (sedated on propofal but more lucid today): Affect perplexed
   and slightly euphoric, spontaneous movement but largely not purposive.
   Opens eyes spontaneous, communicates with hand and head shake and nod
   when spoken to
 no spontaneous attempts to communicate. CNs II-XII
   intact (could not evaluate speech, gag, hoarseness). Muscle bulk
   normal; no fasciculations observed in arms, shoulders, legs; tone
   normal to low; movements including eye opening not fatigable; power
   grossly normal with some possibly reduced shoulder strength. Difficult
   to retain patient
s cooperativity for a long exam. Reflexes intact
   (knee extension, biceps), coordination not tested; sensation very
   crudely intact .
   Labs / Radiology
   188 K/uL
   14.9 g/dL
   140 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.5 mEq/L
   19 mg/dL
   102 mEq/L
   145 mEq/L
   46.4 %
   8.3 K/uL
        [image002.jpg]
                             [**2118-1-9**]  03:02 AM
                             [**2118-1-9**]  03:14 AM
                             [**2118-1-9**]  06:34 AM
                             [**2118-1-9**]  12:21 PM
                             [**2118-1-9**]  10:15 PM
                             [**2118-1-10**]  04:28 AM
                             [**2118-1-10**]  06:46 AM
                             [**2118-1-10**]  11:23 AM
                             [**2118-1-10**]  04:17 PM
                             [**2118-1-11**]  04:45 AM
   WBC
   7.7
   9.3
   8.3
   Hct
   49.1
   47.7
   46.4
   Plt
   176
   184
   188
   Cr
   0.7
   0.6
   0.6
   0.6
   TCO2
   37
   37
   36
   38
   36
   37
   Glucose
   126
   135
   135
   140
   Other labs: PT / PTT / INR:13.6/26.8/1.2, CK / CKMB /
   Troponin-T:244/39/1.19, ALT / AST:99/64, Alk Phos / T Bili:120/0.5,
   Amylase / Lipase:/18, Differential-Neuts:69.6 %, Lymph:17.4 %, Mono:8.2
   %, Eos:4.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:467 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR ([**1-10**]): Previous small bilateral pleural effusions and
   bibasilar atelectasis have
   improved. Mild cardiomegaly persists. ET tube and left PIC line in
   standard
   placements. Nasogastric tube passes into the stomach and out of view.
   Microbiology: Sputum:
   Gram Stain
    [**10-31**] PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
   OROPHARYNGEAL FLORA.
   Sputum Culture: NGTD
   Assessment and Plan
   61M with HTN, untreated OSA, one week of hypersomnolence, progressing
   to stupor. Hypercarbic respiratory failure noted on arrival, along with
   NSTEMI
 now stable. Family also reported that the patient had been
   leaning to the right for that week. MRI shows diffuse disease including
   subcortical white matter and pons. PNA also likely based on CXR and
   presentation (febrile, copious secretions, no other sites of infection
   evident).
   During the stay the patient has been switching between AC and PSV
   ventilation
 due to desynchrony with ventilator and tachypneic
   episodes.  Attempts to reduce pressure support typically result in
   tachypnea to the 30s-40s.  Now this is attended by relatively normal
   (we think) blood gases for him
 we expect that his PPCO2 is typically
   58-62 mmHg at baseline (a guess). The etiology is unclear, but it is
   important to note that he suffers from untreated OSA, about 120
   pack-year history of smoking, HTN, polycythemia (perhaps due to chronic
   hypoxia or maybe primary), PNA and apparently abnormal respiratory
   drive
 in response to hypoxia or reduced pressure support he becomes
   tachypneic with low tidal volumes.  We wonder if this might be
   neurologic, perhaps due to an insult sometime prior to admission with
   gradual decompensation and PNA
 this is consistent with his history
   prior to admission.  We also wonder if this may correlate with
   increased pontine signal on MRI.  Peripheral causes such as ALS,
   myasthenia [**Last Name (un) **] and Guillaume [**Location (un) **] are unlikely based on no
   fasciculations, normal muscle bulk, the absence of fatigability and the
   presence of reflexes.  Neurology are following.  Based on previous echo
   he does not have pulmonary hypertension and only has a trace of heart
   failure on clinical exam without much improvement of breathing after
   diuresis.  NIF gradually increasing and
 26 cm H2O today.
   Hypercarbic Respiratory Failure/Pneumonia
   Patient has not tolerated low levels of pressure support, with
   tachypnea as above. NIF now -26 cmH2O. Still unclear etiology.  PNA and
   OSA, with central hypoventilation. Transitioned back to AC this
   yesterday now back to pressure support.   Investigation of
   neuromuscular or PNS cause such as Guillaume [**Location (un) **] or mysasthenia
   incomplete (although weak, does not appear fatigable on physical exam,
   but AChR antibody still pending), but may be unwarranted as described
   above. Neurology also raised possibility of vertebrobasilar arterial
   insufficiency and MRA somewhat inconclusive. Left arm movement much
   improved
 reason for cervical MRI. Unclear at this point whether
   primarily respiratory, peripheral nervous or central etiology, but
   appears likely to be both primary respiratory with central component at
   present. . Likely smoking-related lung injury and known OSA, possible
   PNA contributing, now completed ceftriaxone and levo. No meaningful
   improvement with lasix so far.
   - Follow NIF
   - Appreciate Neurology input
   - Neurology want to hold on NCS/EMG given new exam now less sedated
   - Work towards trial of extubation (rather than maintaining trach and
   needing tracheostomy)
   - Maintain pressure support (reduce gradually and consider AC each
   night - is that the pattern?)
   - Allow CO2 around 58-62 mmHg
   - Continue albuterol nebs
   - Continue Lasix 20 m.g with goal to be even to down slightly (but also
   consider phlebotomy to keep viscosity lower).
   - Will allow period of tachypnea on [**5-11**] today and check ABG
   Transaminitis
   Possible statin or propofol
   - Stop statin for now
   - Follow
   Fever
   Still near febrile 100.3. Patient with low grade fever overnight. Would
   consider VAP, however no new infiltrate on CXR. Other consideration
   include UTI, line infection.
   - Blood cultures
   - Urinalysis and Culture
   - LFTs
   - Daily CXR depending on exam findings
   - If spikes/decompensate will cover for VAP
   Lethargy/altered mental status
   Appears to be resolving with improvement of respiratory status and
   weaning of sedation. Possible contribution as pseudobulbar affect and
   in context of gliosis/vascular lesion in pons. [**Month (only) 51**] also have caused
   somnolence prior to presentation.
   - Follow and evaluate further when respiratory status improved.
   Rash
   Resolving. Unclear if drug reaction (is similar to drug rash) or,
   perhaps less likely, viral exanthem.
   Elevated troponin/ECG changes
   NSTEMI stable on ASA, BB (adjust as tolerated), statin. Cardiology
   following.  Consider ACEI on discharge.
   - Continue metoprolol 37.5 TID (has been held without clear reason
   pressures have been high enough to not invoke hold). Now got BB
   yesterday and this a.m.
   - Statin and ASA
   - Consider ACEI
   - Follow-up with cardiology as outpatient
   Polycythemia
   Stable
 likely related to COPD/OSA. Will follow.
   Constipation
   - Increase bowel regimen to standing Colace/senna with holding
   parameter, rather than PRN.
   ICU care
   # FEN: Replete electrolytes, tube feeds
   # Prophylaxis: Subcutaneous heparin, famotidine
   # Access: PICC
   # Communication: Patient
   Contact with son recently re-established
 may be proxy, whereas now is
   cousin.
   [**First Name4 (NamePattern1) 739**] [**Last Name (NamePattern1) 12364**] h-[**Telephone/Fax (1) 12365**] / c-[**Telephone/Fax (1) 12366**](cousin)
   [**Name (NI) 1154**] [**Name (NI) 12364**] h-[**Telephone/Fax (1) 12367**] / c [**Telephone/Fax (1) 12368**](?7972)
   [**Female First Name (un) 12369**] [**Telephone/Fax (1) 12370**] (sister)
   # Code:  Full
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2118-1-11**] 02:34 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2118-1-2**] 07:00 AM
   PICC Line - [**2118-1-4**] 10:00 PM
   Prophylaxis:
   DVT:  Heparin
   Stress ulcer: Famotidine
   VAP:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now.